US07166609B2
c) Ethyl (4-aminomethylphenyl)acetate
0.5 g (2.6 mmol) of ethyl (4-cyanophenyl)acetate was dissolved in 70 ml of ethanolic ammonia solution and hydrogenated, at room temperature and under standard pressure, over Raney nickel. After 45 minutes, the mixture was filtered and evaporated. This resulted in 0.42 g (82%) of ethyl (4-aminomethylphenyl)acetate. MS (ES+): m/e=194.11

reactant | ethyl (4-cyanophenyl)acetate | 2.6 mmol, 0.5 g | C(#N)C1=CC=C(C=C1)CC(=O)OCC | C11H11NO2
solvent | ammonia | 70 ml | N | H3N
catalyst | Raney nickel | [Ni] | Ni
product | Ethyl (4-aminomethylphenyl)acetate | NCC1=CC=C(C=C1)CC(=O)OCC | C11H15NO2
